US08026234B2
Compound 46: (S)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(quinuclidin-3-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and (S)-(−)-3-aminoquinuclidine. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10-1.42 (m, 3H) 1.57-1.92 (m, 12H) 2.71-89 (m, 4H) 2.96 (m, 1H) 3.13 (m, 1H) 3.31 (s, 3H) 3.95 (s, 3H) 3.97-4.10 (m, 2H) 4.45 (m, 1H) 7.47 (d, J=8.0 Hz, 1H) 7.50 (s, 1H) 7.93 (s, 1H) 8.19 (d, 1H) 8.21 (s, 1H) 8.26 (d, J=8.0 Hz, 1H). [M+H] calculated for C29H37F2N7O3, 570. found 570.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-(−)-3-aminoquinuclidine | N[C@@H]1CN2CCC1CC2 | C7H14N2
product | (S)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(quinuclidin-3-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)N[C@@H]1CN3CCC1CC3)C=C2)OC | C29H37F2N7O3
